US09233946B2
5-Fluoro-3-methyl-benzothiophene-2-sulfonyl chloride
A mixture of 5-fluoro-3-methylbenzothiophene-2-sulfonic acid (230 mg, 0.93 mmol) in POCl3 (5 mL) was heated at 60° C. over night. The POCl3 was evaporated and the crude product was dissolved in CH2Cl2 and washed with water. The organic phase was dried and evaporated to give 0.23 g (93%) of the title compound.

reactant | 5-fluoro-3-methylbenzothiophene-2-sulfonic acid | 0.93 mmol, 230 mg | FC=1C=CC2=C(C(=C(S2)S(=O)(=O)O)C)C1 | C9H7FO3S2
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-Fluoro-3-methyl-benzothiophene-2-sulfonyl chloride | 0.23 g, 93% | FC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6ClFO2S2
